US06284748B1
A solution of 6-chloro-8-acetoxymethyl-N9-neopentylpurine (1 mmol) in THF-water was treated with aqueous sodium hydroxide (1.5 mmol) at 0° C. for 0.5 h. Extraction and chromatography afforded 6-chloro-8-hydroxymethyl-N9-neopentylpurine as a yellow gel. TLC: Rf=0.38, 33% EtOAc-hexane.

reactant | 6-chloro-8-acetoxymethyl-N9-neopentylpurine | 1 mmol | ClC1=C2N=C(N(C2=NC=N1)CC(C)(C)C)COC(C)=O | C13H17ClN4O2
reactant | sodium hydroxide | 1.5 mmol | [OH-].[Na+]
solvent | THF water | C1CCOC1.O
product | 6-chloro-8-hydroxymethyl-N9-neopentylpurine | ClC1=C2N=C(N(C2=NC=N1)CC(C)(C)C)CO | C11H15ClN4O
